.title kicad schematic

.include qei_subcircuit.sub
vv4 phb gnd pulse(0 5 15u 1n 1n 20u 40u)
vv3 pha gnd pulse(0 5 5u 1n 1n 20u 40u)
vv1 net-_u1-pad1_ gnd pulse(0 5 0 1n 1n 0.5u 1u)
vv2 net-_u1-pad2_ gnd pulse(0 5 2u 1n 1n 100 100)
xu1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad19_ pha phb gnd gnd gnd gnd gnd gnd gnd gnd gnd gnd gnd gnd gnd net-_u1-pad19_ gnd net-_u1-pad19_ gnd pos15 pos14 pos13 pos12 pos11 pos10 pos9 pos8 pos7 pos6 pos5 pos4 pos3 pos2 pos1 pos0 direction sync_error qei_subcircuit
v5 net-_u1-pad19_ gnd 5v
.tran 0.1e-06 200e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
