* c:\esim\esim\src\subcircuitlibrary\5bit-ripple_carry_adder\5bit-ripple_carry_adder.cir

.include Full-Adder.sub
x4 net-_u1-pad1_ net-_u1-pad2_ net-_x4-pad3_ net-_u1-pad4_ ? Full-Adder
x5 net-_u1-pad3_ net-_u1-pad5_ net-_x5-pad3_ net-_u1-pad7_ net-_x4-pad3_ Full-Adder
x6 net-_u1-pad6_ net-_u1-pad8_ net-_x6-pad3_ net-_u1-pad10_ net-_x5-pad3_ Full-Adder
x7 net-_u1-pad9_ net-_u1-pad11_ net-_x7-pad3_ net-_u1-pad13_ net-_x6-pad3_ Full-Adder
x8 net-_u1-pad12_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_x7-pad3_ Full-Adder
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ port
.ac lin 0 0Hz 0Hz

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
