* c:\esim\esim\src\subcircuitlibrary\full-adder\full-adder.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ port
* u2  net-_u1-pad1_ net-_u1-pad2_ net-_u2-pad3_ d_xor
* u5  net-_u2-pad3_ net-_u1-pad3_ net-_u1-pad4_ d_xor
* u4  net-_u2-pad3_ net-_u1-pad3_ net-_u4-pad3_ d_and
* u3  net-_u1-pad1_ net-_u1-pad2_ net-_u3-pad3_ d_and
* u6  net-_u3-pad3_ net-_u4-pad3_ net-_u1-pad5_ d_or
a1 [net-_u1-pad1_ net-_u1-pad2_ ] net-_u2-pad3_ u2
a2 [net-_u2-pad3_ net-_u1-pad3_ ] net-_u1-pad4_ u5
a3 [net-_u2-pad3_ net-_u1-pad3_ ] net-_u4-pad3_ u4
a4 [net-_u1-pad1_ net-_u1-pad2_ ] net-_u3-pad3_ u3
a5 [net-_u3-pad3_ net-_u4-pad3_ ] net-_u1-pad5_ u6
* Schematic Name: d_xor, NgSpice Name: d_xor
.model u2 d_xor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_xor, NgSpice Name: d_xor
.model u5 d_xor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u4 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u3 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_or, NgSpice Name: d_or
.model u6 d_or(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
.ac lin 0 0Hz 0Hz

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
