* /home/bhargav/downloads/esim-1.1.2/src/subcircuitlibrary/ca3096/ca3096.cir

.include PNP.lib
.include NPN.lib
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q2 net-_q2-pad1_ net-_q2-pad2_ net-_q2-pad3_ Q2N2222
q5 net-_q5-pad1_ net-_q5-pad2_ net-_q5-pad3_ Q2N2907A
q4 net-_q4-pad1_ net-_q4-pad2_ net-_q4-pad3_ Q2N2907A
* u1  net-_q1-pad2_ net-_q1-pad3_ net-_q1-pad1_ net-_q2-pad3_ net-_q2-pad2_ net-_q2-pad1_ net-_q3-pad3_ net-_q3-pad2_ net-_q3-pad1_ net-_q4-pad3_ net-_q5-pad2_ net-_q5-pad1_ net-_q5-pad3_ net-_q4-pad2_ net-_q4-pad1_ ? port
q3 net-_q3-pad1_ net-_q3-pad2_ net-_q3-pad3_ Q2N2222
.tran 10e-03 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
