* Subcircuit CA3096
.subckt CA3096 net-_q1-pad2_ net-_q1-pad3_ net-_q1-pad1_ net-_q2-pad3_ net-_q2-pad2_ net-_q2-pad1_ net-_q3-pad3_ net-_q3-pad2_ net-_q3-pad1_ net-_q4-pad3_ net-_q5-pad2_ net-_q5-pad1_ net-_q5-pad3_ net-_q4-pad2_ net-_q4-pad1_ ? 
* /home/bhargav/downloads/esim-1.1.2/src/subcircuitlibrary/ca3096/ca3096.cir
.include PNP.lib
.include NPN.lib
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q2 net-_q2-pad1_ net-_q2-pad2_ net-_q2-pad3_ Q2N2222
q5 net-_q5-pad1_ net-_q5-pad2_ net-_q5-pad3_ Q2N2907A
q4 net-_q4-pad1_ net-_q4-pad2_ net-_q4-pad3_ Q2N2907A
q3 net-_q3-pad1_ net-_q3-pad2_ net-_q3-pad3_ Q2N2222
* Control Statements

.ends CA3096