* /home/mallikarjuna/Downloads/eSim-1.1.2/src/SubcircuitLibrary/CSLA_BEC1_logic/CSLA_BEC1_logic.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Sat Jun  8 18:40:34 2019

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U2  Net-_U2-Pad1_ Net-_U2-Pad2_ Net-_U2-Pad3_ d_and		
U3  Net-_U3-Pad1_ Net-_U2-Pad3_ Net-_U3-Pad3_ d_and		
U5  Net-_U2-Pad2_ Net-_U2-Pad1_ Net-_U5-Pad3_ d_xor		
U6  Net-_U2-Pad3_ Net-_U3-Pad1_ Net-_U6-Pad3_ d_xor		
U7  Net-_U3-Pad3_ Net-_U7-Pad2_ Net-_U7-Pad3_ d_xor		
U8  Net-_U3-Pad3_ Net-_U8-Pad2_ Net-_U8-Pad3_ d_xor		
U4  Net-_U2-Pad2_ Net-_U4-Pad2_ d_inverter		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ Net-_U1-Pad9_ Net-_U1-Pad10_ Net-_U1-Pad11_ Net-_U1-Pad12_ Net-_U1-Pad13_ Net-_U1-Pad14_ PORT		
X3  Net-_U1-Pad1_ Net-_U1-Pad5_ Net-_U9-Pad2_ Net-_U2-Pad2_ Net-_X1-Pad3_ Logic_adder		
X1  Net-_U1-Pad2_ Net-_U1-Pad6_ Net-_X1-Pad3_ Net-_U2-Pad1_ Net-_X1-Pad5_ Logic_adder		
X2  Net-_U1-Pad3_ Net-_U1-Pad7_ Net-_X1-Pad5_ Net-_U3-Pad1_ Net-_X2-Pad5_ Logic_adder		
X4  Net-_U1-Pad4_ Net-_U1-Pad8_ Net-_X2-Pad5_ Net-_U7-Pad2_ Net-_U8-Pad2_ Logic_adder		
X7  Net-_U1-Pad9_ Net-_U2-Pad2_ Net-_U4-Pad2_ Net-_U1-Pad10_ MUX		
X5  Net-_U1-Pad9_ Net-_U2-Pad1_ Net-_U5-Pad3_ Net-_U1-Pad11_ MUX		
X8  Net-_U1-Pad9_ Net-_U3-Pad1_ Net-_U6-Pad3_ Net-_U1-Pad12_ MUX		
X6  Net-_U1-Pad9_ Net-_U7-Pad2_ Net-_U7-Pad3_ Net-_U1-Pad13_ MUX		
X9  Net-_U1-Pad9_ Net-_U8-Pad2_ Net-_U8-Pad3_ Net-_U1-Pad14_ MUX		
v1  Net-_U9-Pad1_ GND 0		
U9  Net-_U9-Pad1_ Net-_U9-Pad2_ adc_bridge_1		

.end
