* /home/mallikarjuna/downloads/esim-1.1.2/src/subcircuitlibrary/csla_bec1_logic/csla_bec1_logic.cir

.include LOGIC_ADDER.sub
.include MUX.sub
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ d_and
* u3  net-_u3-pad1_ net-_u2-pad3_ net-_u3-pad3_ d_and
* u5  net-_u2-pad2_ net-_u2-pad1_ net-_u5-pad3_ d_xor
* u6  net-_u2-pad3_ net-_u3-pad1_ net-_u6-pad3_ d_xor
* u7  net-_u3-pad3_ net-_u7-pad2_ net-_u7-pad3_ d_xor
* u8  net-_u3-pad3_ net-_u8-pad2_ net-_u8-pad3_ d_xor
* u4  net-_u2-pad2_ net-_u4-pad2_ d_inverter
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ port
x3 net-_u1-pad1_ net-_u1-pad5_ net-_u9-pad2_ net-_u2-pad2_ net-_x1-pad3_ LOGIC_ADDER
x1 net-_u1-pad2_ net-_u1-pad6_ net-_x1-pad3_ net-_u2-pad1_ net-_x1-pad5_ LOGIC_ADDER
x2 net-_u1-pad3_ net-_u1-pad7_ net-_x1-pad5_ net-_u3-pad1_ net-_x2-pad5_ LOGIC_ADDER
x4 net-_u1-pad4_ net-_u1-pad8_ net-_x2-pad5_ net-_u7-pad2_ net-_u8-pad2_ LOGIC_ADDER
x7 net-_u1-pad9_ net-_u2-pad2_ net-_u4-pad2_ net-_u1-pad10_ MUX
x5 net-_u1-pad9_ net-_u2-pad1_ net-_u5-pad3_ net-_u1-pad11_ MUX
x8 net-_u1-pad9_ net-_u3-pad1_ net-_u6-pad3_ net-_u1-pad12_ MUX
x6 net-_u1-pad9_ net-_u7-pad2_ net-_u7-pad3_ net-_u1-pad13_ MUX
x9 net-_u1-pad9_ net-_u8-pad2_ net-_u8-pad3_ net-_u1-pad14_ MUX
v1  net-_u9-pad1_ gnd 0
* u9  net-_u9-pad1_ net-_u9-pad2_ adc_bridge_1
a1 [net-_u2-pad1_ net-_u2-pad2_ ] net-_u2-pad3_ u2
a2 [net-_u3-pad1_ net-_u2-pad3_ ] net-_u3-pad3_ u3
a3 [net-_u2-pad2_ net-_u2-pad1_ ] net-_u5-pad3_ u5
a4 [net-_u2-pad3_ net-_u3-pad1_ ] net-_u6-pad3_ u6
a5 [net-_u3-pad3_ net-_u7-pad2_ ] net-_u7-pad3_ u7
a6 [net-_u3-pad3_ net-_u8-pad2_ ] net-_u8-pad3_ u8
a7 net-_u2-pad2_ net-_u4-pad2_ u4
a8 [net-_u9-pad1_ ] [net-_u9-pad2_ ] u9
* Schematic Name: d_and, NgSpice Name: d_and
.model u2 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u3 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_xor, NgSpice Name: d_xor
.model u5 d_xor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_xor, NgSpice Name: d_xor
.model u6 d_xor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_xor, NgSpice Name: d_xor
.model u7 d_xor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_xor, NgSpice Name: d_xor
.model u8 d_xor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: adc_bridge_1, NgSpice Name: adc_bridge
.model u9 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
